US07022833B2
N-(Phenylsulfanyl)succinimide
N-Bromosuccinimide (8.90 g, 50.0 mmol) and diphenyl disulfide (10.9 g, 49.9 mmol) were heated, under reflux, in dry 1,2-dichloroethane (40 ml) for 2 hr. After the reaction mixture had been cooled down to room temperature, hexane (150 ml) was added and the mixture was stirred for 30 min. The product was collected by filtration and washed with hexane (50 ml). Recrystallisation from absolute ethanol gave the title compound as colourless crystals (6.2 g, 59.8%), m.p. 110-112° C. (lit.7 115-b 116° C.); δH [(CD3)2SO] 2.84 (4 H, s), 7.32 (5 H, m); δC [(CD3)2SO] 28.8, 126.3, 127.6, 129.2, 135.3, 177.2.

reactant | N-Bromosuccinimide | 50.0 mmol, 8.90 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | diphenyl disulfide | 49.9 mmol, 10.9 g | C1(=CC=CC=C1)SSC1=CC=CC=C1 | C12H10S2
reactant | hexane | 150 ml | CCCCCC | C6H14
solvent | 1,2-dichloroethane | 40 ml | ClCCCl | C2H4Cl2
product | N-(Phenylsulfanyl)succinimide | 6.2 g, 59.8% | C1(=CC=CC=C1)SN1C(CCC1=O)=O | C10H9NO2S
